US08859773B2
Step 2: 7-(methoxycarbonyl)quinoline 1-oxide, shown below, was prepared as follows:
To a solution of methyl quinoline-7-carboxylate (17.8 g, 94.87 mmol) in dichloromethane (315 mL) was added peracetic acid (39.9 mL, 190 mmol, 32% in acetic acid). The reaction was stirred at room temperature overnight. Peracetic acid (10 mL, 48 mmol, 32% in acetic acid) was added and the mixture was stirred for 5 h. The reaction mixture was diluted with a saturated solution of aqueous sodium bicarbonate. The aqueous phase was extracted into dichloromethane (2×μL). The extracts were combined, dried over magnesium sulfate, filtered and concentrated under reduced pressure. Purification by flash chromatography (2-15% methanol in dichloromethane) gave the title compound (17.4 g, 90%) as a yellow solid. 1H NMR (400 MHz, CHLOROFORM-d, δ): 9.41 (1H, s), 8.56 (1H, dd, J=6.0, 0.8 Hz), 8.24 (1H, dd, J=8.5, 1.7 Hz), 7.93 (1H, d, J=8.6 Hz), 7.75 (1H, d, J=8.6 Hz), 7.39 (1H, dd, J=8.6, 6.0 Hz), 4.01 (3H, s)

reactant | methyl quinoline-7-carboxylate | 94.87 mmol, 17.8 g | N1=CC=CC2=CC=C(C=C12)C(=O)OC | C11H9NO2
reactant | peracetic acid | 190 mmol, 39.9 mL | C(C)(=O)OO | C2H4O3
reactant | Peracetic acid | 48 mmol, 10 mL | C(C)(=O)OO | C2H4O3
solvent | dichloromethane | 315 mL | ClCCl | CH2Cl2
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | 7-(methoxycarbonyl)quinoline 1-oxide | 17.4 g, 90% | COC(=O)C1=CC=C2C=CC=[N+](C2=C1)[O-] | C11H9NO3
